US06869957B1
To a stirring solution of 2-amino-3-(1H-indol-3-yl)-1-[N-(2-methoxybenzyl)acetylamino]propane (7.51 g, 21.369 mmoles) in anhydrous tetrahydrofuran (100 ml) under a nitrogen atmosphere at 0° C. was added diisopropylethylamine (4.1 ml, 23.537 mmoles) and bromoacetyl bromide (2.05 ml, 23.530 mmoles). After 2 hours, ethyl acetate was added and the reaction mixture washed with water twice, 1.0 N hydrochloric acid (2×), saturated sodium bicarbonate solution (2×), and brine. The organic layer was dried over anhydrous sodium sulfate, filtered, and concentrated to a tan foam on a rotary evaporator. In this manner the 2-[((2-bromo)acetyl]amino-3-(1H-indol-3-yl)-1-[N-(2-methoxybenzyl)acetylamino]propane was obtained in quantitative yield. No further purification was necessary.

reactant | 2-amino-3-(1H-indol-3-yl)-1-[N-(2-methoxybenzyl)acetylamino]propane | 21.369 mmoles, 7.51 g | NC(CNC(CCC1=C(C=CC=C1)OC)=O)CC1=CNC2=CC=CC=C12 | C21H25N3O2
reactant | diisopropylethylamine | 23.537 mmoles, 4.1 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | bromoacetyl bromide | 23.530 mmoles, 2.05 ml | BrCC(=O)Br | C2H2Br2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | ((2-bromo)acetyl]amino-3-(1H-indol-3-yl)-1-[N-(2-methoxybenzyl)acetylamino]propane | quantitative yield | BrCC(=O)NC(CCC1=CNC2=CC=CC=C12)NC(CCC1=C(C=CC=C1)OC)=O | C23H26BrN3O3
